US06420409B1
Production of Ethyl 4-(acetylamino)-3-nitrobenzoate
Acetyl chloride (62 ml) was added dropwise to a mixture of ethyl 4-amino-3-nitrobenzoate (142 g), N,N-dimethylaniline (110 ml), and toluene (940 ml) in an ice bath. After stirring the mixture at 50° C. for 3 hours, it was cooled. Water (142 ml) was added thereto to stop the reaction. The toluene layer was separated and the organic layer was washed with dilute hydrochloric acid and successively with water. After the organic layer was concentrated to about 1/3 volume, hexane (284 ml) was added thereto for crystallization. Crystals were collected by filtration and washed with hexane to obtain the desired compound, ethyl 4-(acetylamino)-3-nitrobenzoate (157.7 g).

reactant | Acetyl chloride | 62 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl 4-amino-3-nitrobenzoate | 142 g | NC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | N,N-dimethylaniline | 110 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | toluene | 940 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 142 ml | O | H2O
product | ethyl 4-(acetylamino)-3-nitrobenzoate | 157.7 g | C(C)(=O)NC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C11H12N2O5
